US04792560
A. Phenylacetaldehyde O-benzyloxime
A mixture of 5 g of phenylacetaldehyde, 6.7 g of O-benzylhydroxylamine hydrochloride, and 3 g of potassium carbonate in 30 ml of aqueous methanol (1:1) was refluxed for 2 hours. The aqueous solution was extracted with ethyl acetate and the organic solution was dried and evaporated to give 8 g of crude product which was used without purification.

reactant | phenylacetaldehyde | 5 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | O-benzylhydroxylamine hydrochloride | 6.7 g | Cl.C(C1=CC=CC=C1)ON
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | Phenylacetaldehyde O-benzyloxime | 8 g | C(C1=CC=CC=C1)ON=CCC1=CC=CC=C1 | C15H15NO
